US05391743
[1-Hydroxy-3-(3-pyridinyl)propylidene]bis[phosphonic acid](3.37 mmol 1.0 g) is dissolved in 8.4 ml of 1N NaOH solution with 29 ml of distilled water. Iodomethane (16.83 mmol, 1.05 ml) is added in 19 ml of ethanol. This reaction mixture is heated at 80° C. overnight. The solvent is evaporated in vacuo and the residue is triturated with acetone then recrystallized from ethanol and water to yield 0.5 g of 3-(3-hydroxy-3,3-diphosphonopropyl)-1-methyl pyridinium hydroxide, inner salt.

reactant | [1-Hydroxy-3-(3-pyridinyl)propylidene]bis[phosphonic acid] | 3.37 mmol, 1.0 g | OC(CCC=1C=NC=CC1)(P(O)(O)=O)P(O)(O)=O | C8H13NO7P2
reactant | Iodomethane | 16.83 mmol, 1.05 ml | IC | CH3I
solvent | NaOH | 1N, 8.4 ml | [OH-].[Na+]
solvent | water | 29 ml | O | H2O
solvent | ethanol | 19 ml | C(C)O | C2H6O
product | 3-(3-hydroxy-3,3-diphosphonopropyl)-1-methyl pyridinium hydroxide | 0.5 g | [OH-].OC(CCC=1C=[N+](C=CC1)C)(P(=O)(O)O)P(=O)(O)O | InChI=1S/C9H15NO7P2.H2O/c1-10-6-2-3-8(7-10)4-5-9(11,18(12,13)14)19(15,16)17;/h2-3,6-7,11H,4-5H2,1H3,(H3-,12,13,14,15,16,17);1H2
